US08957069B2
1-(2,4-Dimethoxyphenyl)-4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran (480 mg, 1.88 mmol) synthesized in Reference example 53 and 1-(2,4-dimethoxyphenyl)piperazine (627 mg, 2.82 mmol), the reaction was carried out in the same manner as Example 1 to obtain the title compound 400 mg (yield 54%).

reactant | 5-bromo-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran | 1.88 mmol, 480 mg | BrC=1C(=C(C2=C(CC(O2)C)C1C)C)C | C12H15BrO
reactant | 1-(2,4-dimethoxyphenyl)piperazine | 2.82 mmol, 627 mg | COC1=C(C=CC(=C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-(2,4-Dimethoxyphenyl)-4-(2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 400 mg, yield 54% | COC1=C(C=CC(=C1)OC)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)C)C1C)C)C | C24H32N2O3
